US05856573
A mixed solution of 1-bromo-2-(2-tetrahydropyranyloxymethyl)benzene (2.71 g, 0.01 mol) and dry THF (8 ml) was added dropwise at 50° to 60° C. over 20 minutes to a solution prepared by adding dry THF (2 ml) and ethyl bromide (0.1 ml) to magnesium (0.36 g, 0.015 mol) in a stream of nitrogen. After completion of the addition, the mixture was stirred at 50° to 60° C. for 1 hour and cooled to room temperature. After cooling, the mixture was added dropwise to a mixed solution of ethyl oxalate (2.19 g, 0.015 mol) and dry THF (20 ml) at below -60° C. over 10 minutes. Then, the mixture was stirred at -60° to -70° C. for 1 hour. A 40% methylamine-methanol solution (3.88 g, 0.05 mol) was added to the reaction mixture, and the temperature of the mixture was raised from -50° C. to room temperature over 1 hour. After completion of the reaction, water (200 ml) was added, and the mixture was extracted with ether (200 ml). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain N-methyl-2-oxo-2-[2-(2-tetrahydropyranyloxymethyl)phenyl]acetamide (1.21 g, Yield: 43.6%) as a colorless oil.

reactant | 1-bromo-2-(2-tetrahydropyranyloxymethyl)benzene | 0.01 mol, 2.71 g | BrC1=C(C=CC=C1)COC1OCCCC1 | C12H15BrO2
reactant | ethyl bromide | 0.1 ml | C(C)Br | C2H5Br
reactant | magnesium | 0.015 mol, 0.36 g | [Mg] | Mg
reactant | ethyl oxalate | 0.015 mol, 2.19 g | C(C(=O)[O-])(=O)OCC
reactant | methylamine methanol | 0.05 mol, 3.88 g | CN.CO
solvent | water | 200 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | N-methyl-2-oxo-2-[2-(2-tetrahydropyranyloxymethyl)phenyl]acetamide | 1.21 g, Yield: 43.6% | CNC(C(C1=C(C=CC=C1)COC1OCCCC1)=O)=O | C15H19NO4
